US04165377
A solution of 6-phthalimidohexanoyl chloride (2 g.) in dry toluene was added to an ethereal solution of diazoethane at -78° C. and the mixture was allowed to warm to room temperature and stand for 15 hours. On standing a solid crystallized out of solution. The reaction mixture was filtered and the filtrate evaporated to dryness giving 1.43 g. of yellow-green oil. This oil was then dissolved in acetone and concentrated hydrochloric acid added until effervescence ceased. The resulting yellow-brown solution was then evaporated to dryness and azeotroped three times with toluene to give N-(7-chloro-6-oxooctyl)phthalimide (1.4 g.) which was used without further purification.

reactant | 6-phthalimidohexanoyl chloride | 2 g | C1(C=2C(C(N1CCCCCC(=O)Cl)=O)=CC=CC2)=O | C14H14ClNO3
reactant | diazoethane | [N+](=[N-])=CC | C2H4N2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetone | CC(=O)C | C3H6O
product | N-(7-chloro-6-oxooctyl)phthalimide | 1.4 g | ClC(C(CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O)C | C16H18ClNO3
